### PR TITLE
[Merged by Bors] - feat(Order/Interval): add strict inclusion lemmas for unbounded intervals

### PR DESCRIPTION
**Pull request by b-reinke**
This PR adds several lemmas relating the strict containment of one-sided intervals to the strict inequality of their boundary.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 1]
```diff
@@ -441,6 +441,9 @@ the equivalence in linear orders, use `Ioi_subset_Ioi_iff`. -/
 @[gcongr]
 theorem Ioi_subset_Ioi (h : a ≤ b) : Ioi b ⊆ Ioi a := fun _ hx => h.trans_lt hx
 
+theorem Ioi_ssubset_Ioi (h : a < b) : Ioi b ⊂ Ioi a :=
+  (ssubset_iff_of_subset (Ioi_subset_Ioi h.le)).mpr ⟨b, h, lt_irrefl b⟩
```
Comment (eric-wieser) [inline Mathlib/Order/Interval/Set/Basic.lean:445]: Can you add the `Iff` version too, perhaps nearby [`Set.Iio_subset_Iic_iff`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Interval/Set/LinearOrder.html#Set.Iio_subset_Iic_iff)?

File: Mathlib/Order/Interval/Set/LinearOrder.lean [hunk 2]
```diff
@@ -133,6 +133,12 @@ theorem Ioi_subset_Ioi_iff : Ioi b ⊆ Ioi a ↔ a ≤ b := by
   by_contra ba
   exact lt_irrefl _ (h (not_le.mp ba))
 
+@[simp]
+theorem Ioi_ssubset_Ioi_iff : Ioi b ⊂ Ioi a ↔ a < b := by
+  refine ⟨fun h => ?_, fun h => Ioi_ssubset_Ioi h⟩
```
Comment (eric-wieser) [inline Mathlib/Order/Interval/Set/LinearOrder.lean:138]: nit:
```suggestion
  refine ⟨fun h => ?_, Ioi_ssubset_Ioi⟩
```
(untested)

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 3]
```diff
@@ -356,6 +356,9 @@ alias ⟨_, _root_.GCongr.Finset.Ici_subset_Ici⟩ := Ici_subset_Ici
 theorem Ioi_subset_Ioi (h : a ≤ b) : Ioi b ⊆ Ioi a := by
   simpa [← coe_subset] using Set.Ioi_subset_Ioi h
 
+theorem Ioi_ssubset_Ioi (h : a < b) : Ioi b ⊂ Ioi a := by
```
Comment (eric-wieser) [inline Mathlib/Order/Interval/Finset/Basic.lean:359]: Is there an analogous result for `Ici_ssubset_Ici`?

File: Mathlib/Order/Interval/Set/LinearOrder.lean [hunk 4]
```diff
@@ -146,6 +152,12 @@ theorem Iio_subset_Iio_iff : Iio a ⊆ Iio b ↔ a ≤ b := by
   by_contra ab
   exact lt_irrefl _ (h (not_le.mp ab))
 
+@[simp]
+theorem Iio_ssubset_Iio_iff : Iio a ⊂ Iio b ↔ a < b := by
+  refine ⟨fun h => ?_, fun h => Iio_ssubset_Iio h⟩
+  obtain ⟨_, c, cb, ac⟩ := ssubset_iff_exists.mp h
+  exact lt_of_le_of_lt (by simpa using ac) (by simpa using cb)
```
Comment (eric-wieser) [inline Mathlib/Order/Interval/Set/LinearOrder.lean:159]:
```suggestion
  exact (le_of_not_lt ac).trans_lt cb
```

File: Mathlib/Order/Interval/Finset/Basic.lean (hunk 3 above)
Comment (b-reinke) [reply Mathlib/Order/Interval/Finset/Basic.lean:363]: yes, I have added it

**Comment by b-reinke** [comment]
I guess some of the lemmas can also be marked with the `gcongr` attribute, but I am not sure which one should be

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 5]
```diff
@@ -352,10 +352,17 @@ theorem Ici_subset_Ici : Ici a ⊆ Ici b ↔ b ≤ a := by
 @[gcongr]
 alias ⟨_, _root_.GCongr.Finset.Ici_subset_Ici⟩ := Ici_subset_Ici
```
Comment (eric-wieser) [inline Mathlib/Order/Interval/Finset/Basic.lean:353]: I guess we should have a copy of this for `Ici_ssubset_Ici`

**Comment by eric-wieser** [comment]
> I guess some of the lemmas can also be marked with the `gcongr` attribute, but I am not sure which one should be

I think every one of your `ssubset` lemmas corresponds to an existing `subset` lemma; so you can just write the `@[gcongr]` attributes to match.

**Comment by b-reinke** [comment]
Ok, I have added them

**Comment by eric-wieser** [comment]
bors d+

Thanks!
